US06166028
Acetic acid 2-(4-tert-butoxycarbonylamino-2,6-dichloro-phenoxy)-ethyl ester
A solution of [3,5-dichloro-4-(2-hydroxy-ethoxy)-phenyl]-carbamic acid tert-butyl ester (0.85 g) in pyridine (14 mL) is treated with acetic anhydride (1.24 mL) and the mixture is stirred at room temperature for 15 hours. The solvent is removed under reduced pressure and the residue dissolved in ethyl acetate. This solution is then washed twice with 5% aqueous hydrochloric acid, once with saturated aqueous sodium bicarbonate, and then with saturated aqueous sodium chloride. The solution is dried over anhydrous magnesium sulfate and the solvent is removed under reduced pressure to provide the desired product as a colorless oil.

reactant | [3,5-dichloro-4-(2-hydroxy-ethoxy)-phenyl]-carbamic acid tert-butyl ester | 0.85 g | C(C)(C)(C)OC(NC1=CC(=C(C(=C1)Cl)OCCO)Cl)=O | C13H17Cl2NO4
reactant | acetic anhydride | 1.24 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 14 mL | N1=CC=CC=C1 | C5H5N
product | Acetic acid 2-(4-tert-butoxycarbonylamino-2,6-dichloro-phenoxy)-ethyl ester | C(C)(C)(C)OC(=O)NC1=CC(=C(OCCOC(C)=O)C(=C1)Cl)Cl | C15H19Cl2NO5
